US07816522B2
After adding 32 mg of (3-nitropyridin-2-yl)hydrazine [CAS No. 15367-16-5] and 29 μl of triethylamine to a solution of 90 mg of {2-(2-methoxy-6-methylpyridin-4-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester in 3 ml of DMF, the mixture was stirred at 85° C. for 16 hours under a nitrogen atmosphere. The reaction mixture was concentrated, and the residue was dissolved in 2 ml of a methanol:THF=1:1 mixed solvent. After adding 42 μl of acetic acid and 64 mg of sodium cyanotrihydroborate to the reaction mixture, it was stirred at room temperature for 4 hours. After filtering the reaction mixture, it was purified by reverse-phase high performance liquid chromatography (acetonitrile-water, 0.1% acetic acid) to give 2-(3-nitropyridin-2-yl)-5-{(2-methoxy-6-methylpyridin-4-yl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-2,4-dihydro-[1,2,4]triazol-3-one (30 mg).

reactant | (3-nitropyridin-2-yl)hydrazine | 32 mg | [N+](=O)([O-])C=1C(=NC=CC1)NN | C5H6N4O2
reactant | triethylamine | 29 μl | C(C)N(CC)CC | C6H15N
reactant | {2-(2-methoxy-6-methylpyridin-4-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | 90 mg | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=CC(=NC(=C1)C)OC)SC)=O | C21H21N5O4S
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-(3-nitropyridin-2-yl)-5-{(2-methoxy-6-methylpyridin-4-yl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-2,4-dihydro-[1,2,4]triazol-3-one | 30 mg | [N+](=O)([O-])C=1C(=NC=CC1)N1N=C(NC1=O)C(NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=CC(=NC(=C1)C)OC | C24H21N9O5
